US03931226
2'-Benzoyl-2,2-dichloroacetanilide (50 g.) was suspended in 91% ethanol (750 ml) and treated with a solution of potassium cyanide (30 g) in water (50 ml). The reaction was stirred at room temperature for 40 hours. The crystalline precipitate was filtered off and the mother liquors diluted with water to provide further crops of 2-amino-3-phenyl-3H-indol-3-ol. Total 37 g. The product could be recrystallized from acetonitrile or aqueous dimethylformamide and had a m.p. of 204°-6°C (decomp).

reactant | 2'-Benzoyl-2,2-dichloroacetanilide | 50 g | C(C1=CC=CC=C1)(=O)C1=C(NC(C(Cl)Cl)=O)C=CC=C1 | C15H11Cl2NO2
reactant | potassium cyanide | 30 g | [C-]#N.[K+]
solvent | ethanol | 750 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 2-amino-3-phenyl-3H-indol-3-ol | NC1=NC2=CC=CC=C2C1(O)C1=CC=CC=C1 | C14H12N2O
